US07288553B2
2-(2-Ethylsulfanyl-1-hydroxy-1-methyl-ethyl)-1-methanesulfonyl-6-trifluoromethyl-1H-indole-5-carbonitrile
This compound was prepared using the general Sonagashira procedure as describe in General Procedures Example C, reacting N-(4-cyano-2-iodo-5-trifluoromethyl-phenyl)-methanesulfonamide (1.0 g, 2.56 mmol) and 1-ethylsulfanyl-2-methyl-but-3-yn-2-ol (0.37 g, 2.56 mmol) to yield the title compound as a yellow sticky oil.

reactant | N-(4-cyano-2-iodo-5-trifluoromethyl-phenyl)-methanesulfonamide | 2.56 mmol, 1.0 g | C(#N)C1=CC(=C(C=C1C(F)(F)F)NS(=O)(=O)C)I | C9H6F3IN2O2S
reactant | 1-ethylsulfanyl-2-methyl-but-3-yn-2-ol | 2.56 mmol, 0.37 g | C(C)SCC(C#C)(O)C | C7H12OS
product | 2-(2-Ethylsulfanyl-1-hydroxy-1-methyl-ethyl)-1-methanesulfonyl-6-trifluoromethyl-1H-indole-5-carbonitrile | C(C)SCC(C)(O)C=1N(C2=CC(=C(C=C2C1)C#N)C(F)(F)F)S(=O)(=O)C | C16H17F3N2O3S2
